US08541595B2
Step 2, Example XII-1: 5-(4-bromophenyl)-5-(1,4-dioxan-2-ylmethyl)-5H-imidazo[2,1-a]isoindole
To a mixture of 3-[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propane-1,2-diol (30 mg) and tetrabutylammonium bromide (30 mg) in 1,2-dichloroethane (1.125 mL) was added aqueous NaOH (35%, 1.5 mL) and heated at 55° C. for 17 h. After cooling to room temperature the reaction mixture was diluted with water and extracted with CH2Cl2 (3×). Combined organic layers were dried over Na2SO4 and concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-75% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) to give title compound as a slightly impure solid which was then repurified by flash chromatography using EtOAc as eluent to give desired product as a white solid. HRMS. Found, 411.0681; calcd for (M+H)+, 411.0703. 1H NMR (500 MHz, CDCl3): δ 7.89-7.83 (m, 2 H); 7.45-7.26 (m, 5 H); 7.15 (d, J=7.71 Hz, 0.5 H); 7.02 (s, 0.5 H); 7.00-6.92 (m, 3 H); 3.53-3.40 (m, 3 H); 3.36-2.97 (m, 4 H); 2.76 (dd, J=14.88, 5.92 Hz, 0.5H); 2.68 (dd, J=14.78, 5.44 Hz, 0.5 H); 2.47 (ddd, J=29.48, 14.82, 4.79 Hz, 1 H).

reactant | 3-[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propane-1,2-diol | 30 mg | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CC(CO)O | C19H17BrN2O2
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | 1,2-dichloroethane | 1.125 mL | ClCCCl | C2H4Cl2
catalyst | tetrabutylammonium bromide | 30 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 5-(4-bromophenyl)-5-(1,4-dioxan-2-ylmethyl)-5H-imidazo[2,1-a]isoindole | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CC2OCCOC2 | C21H19BrN2O2
